US04147693
14.0 pts. by wt. of 5-methyl-3-formyl-isoxazole are reacted with 25.6 pts. by wt. of 1-amino-2-oxo-imidazolidine hydrochloride in 100 pts. by vol. of water as in Example 25.1. After 90 minutes, the precipitate is filtered off, washed with water, dried and recrystallised from absolute acetonitrile. 12.5 pts. by wt. of 1-(5-methyl-isoxazol-3-yl-methyleneamino)-2-oxo-imidazolidine of melting point 195°-7° C. are obtained.

reactant | 5-methyl-3-formyl-isoxazole | CC1=CC(=NO1)C=O | C5H5NO2
reactant | 1-amino-2-oxo-imidazolidine hydrochloride | Cl.NN1C(NCC1)=O
solvent | water | O | H2O
product | 1-(5-methyl-isoxazol-3-yl-methyleneamino)-2-oxo-imidazolidine | CC1=CC(=NO1)C=NN1C(NCC1)=O | C8H10N4O2
